US05840732
ii) Synthesis of 5-(4-chlorophenyl)methylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]oxazolidine-2,4-dione hydrochloride
To a solution of 0.301 g (0.70 mmol) of 5-(4-chlorophenyl)methylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]oxazolidine-2,4-dione in 10 ml of methanol, 0.10 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was crystallized by the addition of diethyl ether to yield 0.223 g (68.6%, light pink crystal) of the desired product.

reactant | 5-(4-chlorophenyl)methylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]oxazolidine-2,4-dione | 0.70 mmol, 0.301 g | ClC1=CC=C(C=C1)C=C1C(N(C(O1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C21H18ClN3O3S
solvent | methanol | 10 ml | CO | CH4O
solvent | hydrochloric acid | 0.10 ml | Cl | ClH
product | 5-(4-chlorophenyl)methylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]oxazolidine-2,4-dione hydrochloride | Cl.ClC1=CC=C(C=C1)C=C1C(N(C(O1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C21H18ClN3O3S.ClH/c22-16-8-6-15(7-9-16)14-17-20(26)25(21(27)28-17)11-1-2-13-29-19-5-3-4-18-23-10-12-24(18)19;/h3-10,12,14H,1-2,11,13H2;1H
